US08283353B2
1-[1-(hydroxymethyl)cyclobutyl]ethanol
1-[1-({[tert-Butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]ethanol (3.2 g) was dissolved in tetrahydrofuran (30 mL), tetrabutylammonium fluoride (32 mL, 1.0 M tetrahydrofuran solution) was added dropwise, and the mixture was stirred at room temperature for 5 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate/2-propanol (3/1). The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound as an oily compound (1.3 g, 79%).

reactant | 1-[1-({[tert-Butyl(dimethyl)silyl]oxy}methyl)cyclobutyl]ethanol | 3.2 g | [Si](C)(C)(C(C)(C)C)OCC1(CCC1)C(C)O | C13H28O2Si
reactant | tetrabutylammonium fluoride | 1.0 M, 32 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-[1-(hydroxymethyl)cyclobutyl]ethanol | OCC1(CCC1)C(C)O | C7H14O2
